US08623889B2
Step 1: N-(7-(2-chlorophenyl)-5-ethynyl-2,6-naphthyridin-3-yl)cyclopropanecarboxamide
A mixture of N-(5-chloro-7-(2-chlorophenyl)-2,6-naphthyridin-3-yl)cyclopropanecarboxamide (110 mg, 0.31 mmol), (trimethylsilyl)acetylene (45 mg, 0.46 mmol), N,N-diisopropylethylamine (0.1 mL, 0.61 mmol), copper(I) iodide (6 mg, 0.03 mmol), and bis(triphenylphosphine)palladium(II) chloride (15 mg, 0.02 mmol) in 1,4-dioxane (2 mL) was heated at 50° C. for 1 hour. The cooled reaction mixture was diluted with ethyl acetate (100 mL) and washed with water (100 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was redissolved in methanol (4 mL) and treated with potassium carbonate (210 mg, 1.5 mmol). The reaction mixture was stirred at room temperature for 1 h, and then diluted with dichloromethane (100 mL) and washed with water (100 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 12 g, ISCO, 0-50% ethyl acetate in heptane) to afford the title compound as a pale yellow solid (50 mg, 50%), which was used in the next step without further purification.

reactant | N-(5-chloro-7-(2-chlorophenyl)-2,6-naphthyridin-3-yl)cyclopropanecarboxamide | 0.31 mmol, 110 mg | ClC1=C2C=C(N=CC2=CC(=N1)C1=C(C=CC=C1)Cl)NC(=O)C1CC1 | C18H13Cl2N3O
reactant | (trimethylsilyl)acetylene | 0.46 mmol, 45 mg | C[Si](C)(C)C#C | C5H10Si
reactant | N,N-diisopropylethylamine | 0.61 mmol, 0.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | potassium carbonate | 1.5 mmol, 210 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 4 mL | CO | CH4O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | copper(I) iodide | 0.03 mmol, 6 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.02 mmol, 15 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(7-(2-chlorophenyl)-5-ethynyl-2,6-naphthyridin-3-yl)cyclopropanecarboxamide | 50 mg, 50% | ClC1=C(C=CC=C1)C1=NC(=C2C=C(N=CC2=C1)NC(=O)C1CC1)C#C | C20H14ClN3O
